US09102625B2
Preparation of 4-(2-fluorobenzylamino)-6-(3-(piperidin-4-yl)phenylamino)nicotinamide
The title compound was prepared using similar chemistry as previously described. 4-(4,4,5,5-Tetramethyl[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester was used instead of 3-aminophenylboronic acid and 3-iodoaniline was used instead of 2-bromopyrimidine. 120.1 was then reduced with hydrogen in the presence of Pd/C in EtOAc as seen in scheme BS2. The resulting compound 120.2 was coupled with 4-(2-fluorobenzylamino)-6-chloronicotinamide utilizing chemistry in scheme 1 to afford 120.3. Note that 4-(2-fluorobenzylamino)-6-chloronicotinamide was synthesized analogously to 6-chloro-4-(pyridin-3-ylmethylamino)nicotinamide utilizing 2-fluorobenzylamine instead of 3-(Aminomethyl)pyridine (also see scheme 1). 120.3 was then stirred in a 50/50 mixture of CH2Cl2 and TFA to give the title compound which was purified by rpHPLC (described previously). UV: 257 nm. M+H found for C24H26FN5O: 420.5. (CD3OD): 8.18 (1H, s), 7.414-7.04 (8H, m), 5.94 (1H, s), 4.51 (2H, s), 3.53-3.48 (2H, m), 3.15 (2H, dt, J=2.4 Hz, 8.8 Hz), 2.93 (1H, tt, J=3.6, 8.8 Hz), 2.10-2.06 (2H, m), 1.91 (2H, dd, J=3.6, 12.4 Hz) ppm.

reactant | 4-(4,4,5,5-Tetramethyl[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
reactant | 3-iodoaniline | IC=1C=C(N)C=CC1 | C6H6IN
reactant | hydrogen | [H][H] | H2
reactant | 4-(2-fluorobenzylamino)-6-chloronicotinamide | FC1=C(CNC2=CC(=NC=C2C(=O)N)Cl)C=CC=C1 | C13H11ClFN3O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 4-(2-fluorobenzylamino)-6-(3-(piperidin-4-yl)phenylamino)nicotinamide | FC1=C(CNC2=CC(=NC=C2C(=O)N)NC2=CC(=CC=C2)C2CCNCC2)C=CC=C1 | C24H26FN5O
